US05250548
4-Bromomethyl-2-nitrobiphenyl, prpepared as described by D. J. Carini, et al. D. J. Carini, et al. on page 105 in European Application Number 324,377 published Jul. 19, 1989, is reacted with excess methylamine in THF in a manner similar to that described in Example 18A, to give 4'-methylaminomethyl-2-nitrobiphenyl. 4'-Methylaminomethyl-2-nitrobiphenyl is reacted, according to the procedures described in Example 1C, with ethyl 2-butyl-4-chloropyrimidine-5-carboxylate to give ethyl 2-butyl-4-{N-[N-methyl-(2'-nitrobiphenyl-4-yl)methyl]amino)pyrimidine-5-carboxylate. Hydrogenation over palladium on carbon in methanol gives the intermediate ethyl 2-butyl-4-{N-[methyl-(2'-aminobiphenyl-4-yl)methyl]amino}pyrimidine-5-carboxylate. The intermediate is dissolved in methylene chloride containing triethylamine and treated at low temperature with trifluoromethanesulfonyl chloride to give the title compound.

reactant | 4-Bromomethyl-2-nitrobiphenyl | BrCC1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C13H10BrNO2
reactant | methylamine | CN | CH5N
reactant | THF | C1CCOC1 | C4H8O
product | 4'-methylaminomethyl-2-nitrobiphenyl | CNCC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C14H14N2O2
